US04064110
205 g of a 30% solution of sodium methylate in methanol are added dropwise over a period of 4 to 5 hours at 10° C to a mixture of 104 g of methoxy acetic acid methyl ester, 250 ml of methanol and 90 g of freshly precipitated hydroxyl ammonium sulphate. After stirring for 2 hours, another 180 g of sodium methylate solution are added dropwise over a period of 30 minutes. After stirring for another 4 hours at room temperature, 300 ml of water are added and the methanol is distilled off in a water jet pump vacuum. The resulting aqueous solution of the sodium salt of methoxy acethydroxamic acid is acidified to pH 4 with concentrated hydrochloric acid. Following the addition of 350 ml of methylene chloride, 120 g of phosgene are introduced with vigorous stirring at 0° C. At the same time the dropwise addition of a 30% aqueous sodium hydroxide solution ensures that the pH-value of the solution always remains between pH 2.5 and pH 4.5. After stirring for 1 hour, excess phosgene is destroyed by the dropwise addition of more sodium hydroxide solution. The mixture is left standing until phase separation is complete, after which the phases are separated and the aqueous phase extracted with methylene chloride. After drying over zeolite, the solvent is distilled off, 98 g of methoxy acetonitrile carbonate being obtained after distillation in an oil pump vacuum. The yield amounts to 75% by weight of the theoretical yield.

reactant | sodium methylate | C[O-].[Na+]
reactant | methoxy acetic acid methyl ester | 104 g | COC(COC)=O | C4H8O3
reactant | hydroxyl ammonium sulphate | S(=O)(=O)([O-])[O-].O[NH3+].O[NH3+]
reactant | sodium methylate | 180 g | C[O-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
product | methoxy acetonitrile carbonate | 98 g | C(O)(O)=O.COCC#N | InChI=1S/C3H5NO.CH2O3/c1-5-3-2-4;2-1(3)4/h3H2,1H3;(H2,2,3,4)
